### ISSUE TITLE
`applyHyps` and `simp` loop on simple goal with negation

### ISSUE THREAD

**Issue by JLimperg** [JLimperg/aesop#54]
```lean
import Aesop
theorem P Q : ¬ P → ¬ Q → False := by
  aesop
```

The loop happens because `applyHyps` transforms `not P, not Q |- False` into `not P, not Q |- P` and `simp` transforms this back into `not P, not Q |- False`.

**Comment by JLimperg** [comment]
Another instance (minimised from a real example):

```lean
import Aesop

example (h : ¬ A) : A := by
  aesop
```
